US05977090
Preparation of dibenzyl 2-methylenepentanedioate using Scheme III
Benzyl acrylate (500 g, 3.0 mol) was heated in an oil bath to 100° C. Heating was stopped and HMPT (10 g, 61 mmol) was added dropwise while maintaining an internal temperature below 140° C. Once addition was complete, the mixture was stirred and cooled to room temperature. A slurry of silica (5:1 Hexane/EtOAc) was added and the mixture was placed in a column containing a plug of dry silica. The column was washed with 1:1 Hexane/EtOAc and the fractions were combined and evaporated to give 450 g of clear light golden liquid. The liquid was distilled under high vacuum (200 μHg) at 185° C. to give 212 g (42%) of a clear and colorless liquid.

reactant | Benzyl acrylate | 3.0 mol, 500 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
reactant | HMPT | 61 mmol, 10 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | dibenzyl 2-methylenepentanedioate | 450 g | C=C(C(=O)OCC1=CC=CC=C1)CCC(=O)OCC1=CC=CC=C1 | C20H20O4
